US07579351B2
(R)-4-Methyl-8-(3-piperidin-1-yl-propoxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
The title compound was synthesized in analogy to example 2, from (R)-8-(3-chloro-propoxy)-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one, piperidine (commercially available), potassium carbonate and potassium iodide, to give the desired product as a light yellow solid (71%).

reactant | (R)-8-(3-chloro-propoxy)-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | ClCCCOC1=CC=2C=C3N(C2C=C1)[C@@H](CNC3=O)C | C15H17ClN2O2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
product | (R)-4-Methyl-8-(3-piperidin-1-yl-propoxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 71% | C[C@@H]1CNC(C=2N1C=1C=CC(=CC1C2)OCCCN2CCCCC2)=O | C20H27N3O2
